US07714010B2
a) 5-(4-Methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-nitro-phenyl ester
A solution of N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)4-methoxy-benzamide (200 mg), 4-nitrophenyl chloroformate (166 mg; 0.83 mmol) and NEt3 (0.2 ml) in dry toluene (3 ml) is stirred in a microwave apparatus at 150° C. for 800 s. The resulting precipitate is collected by filtration and washed with cold toluene. After drying under reduced pressure the compound (240 mg) is obtained.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)4-methoxy-benzamide | 200 mg | CC1(C(NC2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)C | C18H17N3O5
reactant | 4-nitrophenyl chloroformate | 0.83 mmol, 166 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | NEt3 | 0.2 ml | CCN(CC)CC | C6H15N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(C(C2=CC(=C(C=C12)[N+](=O)[O-])NC(C1=CC=C(C=C1)OC)=O)(C)C)=O | C25H20N4O9
